US07173045B2
4-Oxo-pentanoic acid ethyl ester (17.6 ml, 0.124 mol.) and conc. sulfuric acid (10 ml) were added to a solution of 4-fluorophenylhydrazine (20.2 g, 0.124 mol.) in abs. ethanol (90 ml), and the mixture was heated at reflux for 4 h. For working up, the mixture was filtered over silica gel and washed with ethanol (3×20 ml). The solution was poured into 500 ml of ice-water and extracted with ether (3×100 ml). The combined extracts were washed with 2M sodium hydrogen carbonate solution (50 ml), dried, filtered and concentrated. By recrystallisation from EE/cyclohexane (1:1) it was possible to obtain (5-fluoro-2-methyl-1H-indol-3-yl)acetic acid ethyl ester in a yield of 4.5 g (yellow solid, m.p. 61–62° C.).

reactant | 4-Oxo-pentanoic acid ethyl ester | 0.124 mol, 17.6 ml | C(C)OC(CCC(C)=O)=O | C7H12O3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-fluorophenylhydrazine | 0.124 mol, 20.2 g | FC1=CC=C(C=C1)NN | C6H7FN2
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | (5-fluoro-2-methyl-1H-indol-3-yl)acetic acid ethyl ester | C(C)OC(CC1=C(NC2=CC=C(C=C12)F)C)=O | C13H14FNO2
